### PR TITLE
[Merged by Bors] - feat(ProbabilityTheory/Independence/Basic): Upstream independence lemmas from PFR

### PR DESCRIPTION
**Pull request by Paul-Lez**
These lemmas are from [the PFR Project](https://github.com/teorth/pfr).

Co-authored-by: Yaël Dillies <yael.dillies@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by YaelDillies — COMMENTED** [review]
I've pushed a stub at a generalisation of your final lemma. Could you finish it off?

**Comment by Paul-Lez** [comment]
> I've pushed a stub at a generalisation of your final lemma. Could you finish it off?

Done! The proof of `iIndepFun.of_precomp` is a little more cumbersome than I would have wanted, but I haven't been able to find any obvious simplifications or lemmas to extract yet.

File: Mathlib/Probability/Independence/Basic.lean [hunk 1]
```diff
@@ -649,6 +658,44 @@ lemma iIndepFun.indepFun_prod_mk_prod_mk (h_indep : iIndepFun m f μ) (hf : ∀
...
+    intro i hi
+    obtain ⟨j, hj, rfl⟩ := Finset.mem_image.mp hi
+    simpa [A] using (A j).symm ▸ hs j hj
+  have eq : ∏ i ∈ Finset.image (Function.invFun g) t, μ (s (g i)) = ∏ i ∈ t, μ (s i) := by
+    rw [Finset.prod_image (fun x hx y hy h => ?_), Finset.prod_congr rfl (fun x _ => by rw [A])]
+    rw [←A x, ← A y, h]
+  simpa [A, eq] using h (t.image (Function.invFun g)) (f' := fun i ↦ s (g i)) this
+
+
+
```
Comment (YaelDillies) [inline Mathlib/Probability/Independence/Basic.lean:693]:
```suggestion

```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Probability/Independence/Basic.lean [hunk 2]
```diff
@@ -649,6 +658,41 @@ lemma iIndepFun.indepFun_prod_mk_prod_mk (h_indep : iIndepFun m f μ) (hf : ∀
...
+  have : ∀ i ∈ Finset.image (Function.invFun g) t,
+    @MeasurableSet _ (MeasurableSpace.comap (f <| g i) (m <| g i)) (s <| g i) := by
+    intro i hi
+    obtain ⟨j, hj, rfl⟩ := Finset.mem_image.mp hi
+    simpa [A] using (A j).symm ▸ hs j hj
+  have eq : ∏ i ∈ Finset.image (Function.invFun g) t, μ (s (g i)) = ∏ i ∈ t, μ (s i) := by
+    rw [Finset.prod_image (fun x hx y hy h => ?_), Finset.prod_congr rfl (fun x _ => by rw [A])]
+    rw [←A x, ← A y, h]
+  simpa [A, eq] using h (t.image (Function.invFun g)) (f' := fun i ↦ s (g i)) this
+lemma iIndepFun_precomp_of_bijective {g : ι' → ι} (hg : g.Bijective) :
```
Comment (RemyDegenne) [inline Mathlib/Probability/Independence/Basic.lean:691]:
```suggestion
  simpa [A, eq] using h (t.image (Function.invFun g)) (f' := fun i ↦ s (g i)) this

lemma iIndepFun_precomp_of_bijective {g : ι' → ι} (hg : g.Bijective) :
```

**Comment by RemyDegenne** [comment]
Thanks!
bors r+
